US07767675B2
Step 2. 1-quinolin-6-ylcyclopropanecarbonitrile
60 mL of 50% aqueous sodium hydroxide was added to a mixture of 1-bromo-2-chloroethane (22.0 mL, 265 mmol), quinolin-6-ylacetonitrile (16.0 g, 66.6 mmol), and benzyltriethylammonium chloride (990 mg, 4.3 mmol) at 50° C. The reaction mixture was stirred at 50° C. for 3 h. After cooling to RT, the reaction mixture was poured into 100 mL water, and extracted with dichloromethane (3×100 mL). The combined organic extracts were dried over sodium sulfate, filtered through a pad of silica gel eluting with 20% ethyl acetate in dichloromethane. The filtrate was concentrated to give the desired product which was used in the next step without further purification. (12.4 g, 96%).

reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
reactant | 1-bromo-2-chloroethane | 265 mmol, 22.0 mL | BrCCCl | C2H4BrCl
reactant | quinolin-6-ylacetonitrile | 66.6 mmol, 16.0 g | N1=CC=CC2=CC(=CC=C12)CC#N | C11H8N2
catalyst | benzyltriethylammonium chloride | 4.3 mmol, 990 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 100 mL | O | H2O
product | 1-quinolin-6-ylcyclopropanecarbonitrile | N1=CC=CC2=CC(=CC=C12)C1(CC1)C#N | C13H10N2
